US07579359B2
A solution of 4-chloroquinolin-3-ylformamide (5.0 g, 24 mmol), O-ethylhydroxylamine hydrochloride (2.95 g, 30.2 mmol), and isopropanol (75 mL) was heated at reflux overnight, allowed to cool to room temperature, and concentrated under reduced pressure. The residue was stirred with dichloromethane (150 mL) and saturated aqueous sodium carbonate (50 mL) for 15 minutes. The organic layer was separated and dried over potassium carbonate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting with 2% methanol in dichloromethane containing 5 mL of aqueous ammonium hydroxide per liter of eluent) to provide 2.45 g of 1-ethoxy-1H-imidazo[4,5-c]quinoline.

reactant | 4-chloroquinolin-3-ylformamide | 24 mmol, 5.0 g | ClC1=C(C=NC2=CC=CC=C12)NC=O | C10H7ClN2O
reactant | O-ethylhydroxylamine hydrochloride | 30.2 mmol, 2.95 g | Cl.C(C)ON
solvent | isopropanol | 75 mL | C(C)(C)O | C3H8O
product | 1-ethoxy-1H-imidazo[4,5-c]quinoline | 2.45 g | C(C)ON1C=NC=2C=NC=3C=CC=CC3C21 | C12H11N3O
